US20010053776A1
a) Benzyl 4-pyridylacetate
Ethyl 4-pyridylacetate (100 g, 0.61 mol) was dissolved in benzyl alcohol (300 ml, 3.01 mol), and a catalytic amount of potassium carbonate was added. The reaction was heated to 120° C. and nitrogen bubbled through to evaporate ethanol as it was released. After 6 hours the reaction was allowed to cool and was partitioned between 2N HCl (750 ml) and ether (500 ml). The aqueous was washed with ether (3×500 ml) and then neutralised with NaOH at which point turbidity appeared. The aqueous was extracted with EtOAc (3×500 ml) and the combined EtOAc extracts were washed with brine (250 ml), dried (Na2SO4) and evaporated to afford the title compound as a waxy solid (103 g, 75%). 1H NMR (360 MHz, CDCl3) 8 3.66 (s, 2H), 5.15 (s, 2H), 7.20 (d, J=4, 2H), 7.26-7.38 (m, 5H), 8.54 (d, J=4, 2H). m/z (ES+) 318 (M++H).

reactant | Ethyl 4-pyridylacetate | 0.61 mol, 100 g | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
reactant | benzyl alcohol | 3.01 mol, 300 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Benzyl 4-pyridylacetate | N1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C14H13NO2
